US07511050B2
Step C: 3-(7-bromo-5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)propanoic acid
The mixture of 3-(5-oxo-9-pentyl-6,9-dihydro-5H[1,2,4]triazolo[4,3-a]purin-3-yl)propanoic acid (203 mg, 0.64 mmole) and NBS (125.8 mg, 7.0 mmol) in THF (25 ml) was stirred at 70° C. for 2 hours. After evaporation of solvent, the residue was purified by preparative LC-MS to afford 60.2 mg (23.7%) of the desired product (60.2 mg, 23.7%) as white solid. LCMS calculated for C14H18BrN6O3(M+H): 397.1; found: 371.1.

reactant | 3-(5-oxo-9-pentyl-6,9-dihydro-5H[1,2,4]triazolo[4,3-a]purin-3-yl)propanoic acid | 0.64 mmole, 203 mg | O=C1C=2NC=NC2N(C=2N1C(=NN2)CCC(=O)O)CCCCC | C14H18N6O3
reactant | NBS | 7.0 mmol, 125.8 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-(7-bromo-5-oxo-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-3-yl)propanoic acid | 60.2 mg | BrC1=NC=2N(C=3N(C(C2N1)=O)C(=NN3)CCC(=O)O)CCCCC | C14H17BrN6O3
